US08754242B2
A solution of (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione (205 mg, 0.66 mmol) in methanol (250 ml) is hydrogenated at 2 bar over 5% palladium on carbon (approximately 20 mgs) for 1 hour at room temperature. The catalyst is removed by filtration through diatomaceous earth and the solvent is evaporated under reduced pressure. Trituration with diethyl ether gives (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione.

reactant | (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione | 0.66 mmol, 205 mg | CC1=C(C(=CC(=C1)C)C)C1C(C2C3C=CC(C2C1=O)O3)=O | C18H18O3
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium on carbon | approximately 20 mgs | [Pd] | Pd
product | (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione | CC1=C(C(=CC(=C1)C)C)C1C(C2C3CCC(C2C1=O)O3)=O | C18H20O3
